US09255110B2
A mixture of 4-methoxy-3-nitrobenzaldehyde (1.5 g, 8.2 mmol) and methyl (triphenylphosphoranylidene)acetate (4.4 g, 13 mmol) in tetrahydrofuran (30 mL) was heated at reflux overnight. The reaction mixture was cooled and evaporated under reduced pressure; the crude residue was purified by flash chromatography (acetone/hexane, 20/80) to afford 0.5 g of (E)-3-(4-methoxy-3-nitro-phenyl)-acrylic acid methyl ester.

reactant | 4-methoxy-3-nitrobenzaldehyde | 8.2 mmol, 1.5 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | methyl (triphenylphosphoranylidene)acetate | 13 mmol, 4.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (E)-3-(4-methoxy-3-nitro-phenyl)-acrylic acid methyl ester | 0.5 g | COC(\C=C\C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O | C11H11NO5
